US07196079B2
Step A. 8-Chloro-2-methyl-4H-3,1-benzoxazin-4-one
A solution of 2-amino-3-chlorobenzoic acid (4.93 g, 28.7 mmol) in acetic anhydride (15 mL) was refluxed for 3 h, then cooled to room temperature. The precipitated solid was filtered, and washed with hexane. The title compound was obtained as a brown solid (4.33 g). 1H NMR (500 MHz, CDCl3) δ 8.11 (d, J=8 Hz, 1H), 7.86 (d, J=8 Hz, 1H), 7.43 (t, J=8 Hz, 1H), 2.54 (s, 3H).

reactant | 2-amino-3-chlorobenzoic acid | 28.7 mmol, 4.93 g | NC1=C(C(=O)O)C=CC=C1Cl | C7H6ClNO2
reactant | acetic anhydride | 15 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 8-Chloro-2-methyl-4H-3,1-benzoxazin-4-one | ClC1=CC=CC=2C(OC(=NC21)C)=O | C9H6ClNO2
